US05049674
Preparation of 2-acetoxymethyl-4-cyclopropylmethoxypyridine
4-cyclopropylmethoxy-2-methylpyridine-N-oxide (3.8 g 0.021 mol) was dissolved in acetic anhydride (10 ml) and was added dropwise to acetic anhydride (20 ml) (warmed to 90° C.). After the addition the temperature was raised to 110° C. and the mixture was stirred at 110° C. for 1 h and then the solvent was distilled off and the crude product was used without purification. NMR data is given below.

reactant | 4-cyclopropylmethoxy-2-methylpyridine-N-oxide | 0.021 mol, 3.8 g | C1(CC1)COC1=CC(=[N+](C=C1)[O-])C | C10H13NO2
reactant | acetic anhydride | 10 ml | C(C)(=O)OC(C)=O | C4H6O3
reactant | acetic anhydride | 20 ml | C(C)(=O)OC(C)=O | C4H6O3
product | 2-acetoxymethyl-4-cyclopropylmethoxypyridine | C(C)(=O)OCC1=NC=CC(=C1)OCC1CC1 | C12H15NO3
